US09193707B2
1. Synthesis of methyl 2-(benzyloxy)-3-nitrobenzoate
Into a 500-mL 4-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of phenylmethanol (10.7 g, 98.95 mmol, 1.05 equiv) in N,N-dimethylformamide (100 mL). This was followed by the addition of sodium hydride (3.9 g, 162.50 mmol, 1.20 equiv, 70%) in several batches at 0° C. The mixture was stirred for 25 min at 0° C. To this was added a solution of methyl 2-fluoro-3-nitrobenzoate (18.8 g, 94.41 mmol, 1.00 equiv) in N,N-dimethylformamide (150 mL) dropwise with stirring at 0° C. The resulting solution was stirred overnight at room temperature. The mixture was diluted with 700 mL of ethyl acetate. The resulting mixture was washed with 3×800 mL of water. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:40). This resulted in 20 g (74%) of methyl 2-(benzyloxy)-3-nitrobenzoate as yellow oil. MS (ESI) m/z 288 ([M+H]+).

reactant | phenylmethanol | 98.95 mmol, 10.7 g, 1.05 equiv | C1(=CC=CC=C1)CO | C7H8O
reactant | sodium hydride | 162.50 mmol, 3.9 g, 1.20 equiv | [H-].[Na+]
reactant | methyl 2-fluoro-3-nitrobenzoate | 94.41 mmol, 18.8 g, 1.00 equiv | FC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C8H6FNO4
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 700 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-(benzyloxy)-3-nitrobenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C15H13NO5
